US04499299
a. Ethyl 4-bromomethylphenoxyacetate
A solution of ethyl 4-methylphenoxyacetate, which may be prepared as set forth by S. G. Powell and R. Adams in J. Am. Chem. Soc., 42, pages 646-658 (1920), (18.21 g, 0.094 mole) in 100 ml of dry CCl4 was stirred and refluxed under a 350 watt tungsten lamp. A solution of 15 g (0.094 mole) of bromine in 100 ml of CCl4 was added by means of an addition funnel over a period of 30 minutes. The colorless reaction mixture was evaporated in vacuo and the resulting oil distilled bulb-to-bulb taking a middle cut at 120°-140° at 0.17 mm Hg.

reactant | ethyl 4-methylphenoxyacetate | CC1=CC=C(OCC(=O)OCC)C=C1 | C11H14O3
reactant | bromine | 0.094 mole, 15 g | BrBr | Br2
solvent | CCl4 | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | tungsten | [W] | W
product | Ethyl 4-bromomethylphenoxyacetate | BrCC1=CC=C(OCC(=O)OCC)C=C1 | C11H13BrO3
